US06720329B2
2H-1-benzothiopyran-4-yl trifluoromethyl sulfone from reaction 33a (1.83 g, 6.17 mmol) and 4-(methoxy carbonylphenyl)boronic acid (1.11 g, 6.17 mmol) were dissolved in ethanol (15 mL) and toluene (30 mL) under nitrogen at room temperature. Then lithium chloride (0.52 g, 12.35 mmol) and 2.65 M potassium carbonate (4.66 mL, 12.35 mmol) were added. Nitrogen was bubbled through the reaction for 15 minutes tetrakis(triphenylphosphine)-palladium(0) (0.35 g, 0.31 mmol) was added. The reaction was heated to reflux for 2 h, allowed to cool then partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried over magnesium sulfate, and was concentrated. The product was purified by chromatography on silica gel eluting with ethyl acetate:hexane (15:85, v:v) to give methyl 4-(2H-1-benzothiopyran-4-yl)benzoate (1.75 g, 67%) as a solid.

reactant | 2H-1-benzothiopyran-4-yl trifluoromethyl sulfone | FC(F)(F)S(=O)(=O)C1=CCSC2=C1C=CC=C2 | C10H7F3O2S2
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | lithium chloride | 12.35 mmol, 0.52 g | [Cl-].[Li+]
reactant | potassium carbonate | 12.35 mmol, 2.65 M, 4.66 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.31 mmol, 0.35 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 4-(2H-1-benzothiopyran-4-yl)benzoate | 1.75 g, 67% | S1CC=C(C2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C17H14O2S
